### PR TITLE
feat(Computability/NFA): improve bound on pumping lemma

### PR DESCRIPTION
**Pull request by meithecatte**
---

- [x] depends on: #25321

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/NFA.lean [hunk 1]
```diff
@@ -1,20 +1,40 @@
...
+* `M.evalFrom S x`: set of possible ending states for an input word `x`
+  and set of initial states `S`
+* `M.accepts`: the language accepted by the NFA `M`
+* `M.Path s t x`: a specific path from `s` to `t` for an input word `x`
+* `p.supp`: set of states visited by the path `p`
+
+## Main theorems
+
+* `NFA.pumping_lemma`: every sufficiently long string accepted by the NFA has a substring that can
+  be repeated arbitrarily many times
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:37]:
```suggestion
  be repeated arbitrarily many times and still be accepted
```

File: Mathlib/Computability/NFA.lean [hunk 2]
```diff
@@ -66,11 +90,31 @@ theorem evalFrom_nil (S : Set σ) : M.evalFrom S [] = S :=
...
+    M.evalFrom S (a :: x) = M.evalFrom (M.stepSet S a) x :=
+  rfl
+
 @[simp]
 theorem evalFrom_append_singleton (S : Set σ) (x : List α) (a : α) :
     M.evalFrom S (x ++ [a]) = M.stepSet (M.evalFrom S x) a := by
   simp only [evalFrom, List.foldl_append, List.foldl_cons, List.foldl_nil]
 
+theorem evalFrom_biUnion {ι : Type*} (t : Set ι) (f : ι → Set σ) (x : List α) :
+    M.evalFrom (⋃ i ∈ t, f i) x = ⋃ i ∈ t, M.evalFrom (f i) x := by
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:104]: Do you think this should be simp?

File: Mathlib/Computability/EpsilonNFA.lean [hunk 3]
```diff
@@ -269,10 +269,10 @@ theorem toNFA_evalFrom_match (start : Set σ) :
 theorem toNFA_correct : M.toNFA.accepts = M.accepts :=
   rfl
 
-theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
-    (hlen : Fintype.card (Set σ) ≤ List.length x) :
+theorem pumping_lemma [Fintype σ] [DecidableEq σ] {x : List α} (hx : x ∈ M.accepts)
```
Comment (YaelDillies) [inline Mathlib/Computability/EpsilonNFA.lean:272]:
```suggestion
theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
```

File: Mathlib/Computability/EpsilonNFA.lean [hunk 4]
```diff
@@ -269,10 +269,10 @@ theorem toNFA_evalFrom_match (start : Set σ) :
...
+    (hlen : Fintype.card σ ≤ List.length x) :
     ∃ a b c, x = a ++ b ++ c ∧
-      a.length + b.length ≤ Fintype.card (Set σ) ∧ b ≠ [] ∧ {a} * {b}∗ * {c} ≤ M.accepts :=
+      a.length + b.length ≤ Fintype.card σ ∧ b ≠ [] ∧ {a} * {b}∗ * {c} ≤ M.accepts :=
   M.toNFA.pumping_lemma hx hlen
```
Comment (YaelDillies) [inline Mathlib/Computability/EpsilonNFA.lean:276]:
```suggestion
      a.length + b.length ≤ Fintype.card σ ∧ b ≠ [] ∧ {a} * {b}∗ * {c} ≤ M.accepts := by
  classical exact M.toNFA.pumping_lemma hx hlen
```

File: Mathlib/Computability/NFA.lean [hunk 5]
```diff
@@ -66,11 +90,31 @@ theorem evalFrom_nil (S : Set σ) : M.evalFrom S [] = S :=
...
+  induction x generalizing ι with
+  | nil => simp
+  | cons a x ih => simp [stepSet, ih]
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:107]:
```suggestion
theorem evalFrom_biUnion {ι : Type*} (t : Set ι) (f : ι → Set σ) :
    ∀ x : List α, M.evalFrom (⋃ i ∈ t, f i) x = ⋃ i ∈ t, M.evalFrom (f i) x
  | [] => by simp
  | a :: x => by simp [stepSet, evalFrom_biUnion _ _ x]
```

**Review by YaelDillies — COMMENTED** [review]
Do you really need a `Path` type rather than an `IsPath` predicate?

**Comment by meithecatte** [comment]
> Do you really need a `Path` type rather than an `IsPath` predicate?

How would you otherwise define `Path.supp`?

**Comment by YaelDillies** [comment]
`εNFA.IsPath` takes the path as an argument, so the support of the path is simply that argument (coerced to a set or finset as necessary)

**Comment by meithecatte** [comment]
As far as I can see, `εNFA.IsPath` takes only the initial and final state as arguments, and the labels of the edges along the paths. But `Path.supp` are the vertices along the way, which aren't even uniquely identified by the triple of (initial state, final state, accepted word).

(At first I was gonna have an `IsPath` predicate like `εNFA`, but then I realized that the utility of `εNFA.IsPath` comes from it being explicit about when the epsilon transitions happen. For non-`ε` NFAs, `IsPath s1 s2 x` is simply `s2 ∈ M.evalFrom s1 x`.)

**Comment by YaelDillies** [comment]
Okay that's a good point. Can you please record it in the docstring of `NFA.Path` or in the module doc?

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Computability/NFA.lean (hunk 5 above)
Comment (meithecatte) [reply Mathlib/Computability/NFA.lean:107]: Okay, is there a preference against `induction` (or `induction generalizing` specifically)?

File: Mathlib/Computability/EpsilonNFA.lean (hunk 4 above)
Comment (meithecatte) [reply Mathlib/Computability/EpsilonNFA.lean:276]: Applied, should the `NFA.pumping_lemma` also hide its `DecidableEq` assumption like that?

File: Mathlib/Computability/NFA.lean (hunk 2 above)
Comment (meithecatte) [reply Mathlib/Computability/NFA.lean:104]: Perhaps it should be. I was a bit disinclined towards it by the very next lemma doing `simp [← evalFrom_biUnion]`, but that isn't really enough reason, is it.

Applied `@[simp]` in the next revision.

File: Mathlib/Computability/EpsilonNFA.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Computability/EpsilonNFA.lean]: Yes, exactly!

Comment (meithecatte) [reply Mathlib/Computability/EpsilonNFA.lean:276]: Okay, I've done that as well. I think this PR should be ready, could you take another look?

File: Mathlib/Computability/NFA.lean [hunk 6]
```diff
@@ -104,6 +152,159 @@ def accepts : Language α := {x | ∃ S ∈ M.accept, S ∈ M.eval x}
...
+Also note that this is `Type` and not a `Prop`, so that we can speak about the properties
+of a particular `Path`, such as the set of states visited along the way (defined as `Path.supp`). -/
+inductive Path : σ → σ → List α → Type (max u v)
+  | nil (s : σ) : Path s s []
+  | cons (t s u : σ) (a : α) (x : List α) :
+      t ∈ M.step s a → Path t u x → Path s u (a :: x)
+
+/-- Knowing that a path must exist, construct one particular example. -/
+noncomputable def path_of_evalFrom {s t : σ} {x : List α} (h : t ∈ M.evalFrom {s} x) :
+    M.Path s t x :=
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:171]: There are a few things that are wrong with this definition:
1. Its name is incorrectly cased
2. The relevant Type-valued arguments are implicit, meaning that it will unhelpfully print as `path_of_evalFrom ⋯` in the infoview (proofs are elided)
3. The path doesn't depend on the proof, and therefore I wonder whether this definition is useful at all. I think you instead want a theorem stating `t ∈ M.evalFrom {s} x ↔ Nonempty (M.Path s t x)`

File: Mathlib/Computability/NFA.lean [hunk 7]
```diff
@@ -104,6 +152,159 @@ def accepts : Language α := {x | ∃ S ∈ M.accept, S ∈ M.eval x}
...
+theorem evalFrom_of_path {s t : σ} {x : List α} (h : M.Path s t x) : t ∈ M.evalFrom {s} x := by
+  induction h with
+  | nil => simp
+  | cons s' s t a x h₁ h₂ ih =>
+    simp [M.mem_evalFrom_iff_exists (S := M.step _ _)]
+    tauto
+
+/-- Knowing that the NFA accepts a word, choose a concrete start state, path, and accept state. -/
+noncomputable def path_of_accepts {x : List α} (h : x ∈ M.accepts) :
+    (s t : σ) × M.Path s t x ×' s ∈ M.start ∧ t ∈ M.accept :=
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:191]: Same concerns apply here

File: Mathlib/Computability/NFA.lean [hunk 8]
```diff
@@ -104,6 +152,159 @@ def accepts : Language α := {x | ∃ S ∈ M.accept, S ∈ M.eval x}
...
+def Path.append {s t u : σ} {x y : List α} (p : M.Path s t x) (q : M.Path t u y) :
+    M.Path s u (x ++ y) :=
+  match p with
+  | nil _ => q
+  | cons s' _ _ _ _ h p' =>
+    cons s' _ _ _ _ h (p'.append q)
+
+/-- Split `p` at the point just after it has matched `x`. -/
+def Path.splitAfter {s u : σ} {y : List α} (x : List α) (p : M.Path s u (x ++ y)) :
+    (t : σ) × M.Path s t x × M.Path t u y :=
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:212]: ... and here, etc...

Comment (meithecatte) [reply Mathlib/Computability/NFA.lean:212]: I don't believe this is the case here, `M.Path` is `Type`-valued, and together with `x` it's enough to infer everything.

Comment (YaelDillies) [reply Mathlib/Computability/NFA.lean:212]: Still, it is very non-idiomatic having *mathematical* functions (just saying this because metaprogramming functions are quite exactly the opposite) return terms of a sigma or product type. They would instead be split into several functions. See eg [`SimpleGraph.Walk.takeUntil`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Connectivity/WalkDecomp.html#SimpleGraph.Walk.takeUntil) and [`SimpleGraph.Walk.dropUntil`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Connectivity/WalkDecomp.html#SimpleGraph.Walk.dropUntil)

Comment (meithecatte) [reply Mathlib/Computability/NFA.lean:212]: I suppose this could be split into two functions, but the product type would still be necessary in order to provide the `t` and be able to actually write down the return type.

Comment (YaelDillies) [reply Mathlib/Computability/NFA.lean:212]: Why can't `t` be its own function? Eg here isn't it `x.getLastD s`?

File: Mathlib/Computability/NFA.lean [hunk 9]
```diff
@@ -1,20 +1,41 @@
...
+a `Fintype` instance must be supplied for true NFAs.
+
+## Main definitions
+
+* `NFA α σ`: automaton over alphabet `α` and set of states `σ`
+* `M.evalFrom S x`: set of possible ending states for an input word `x`
+  and set of initial states `S`
+* `M.accepts`: the language accepted by the NFA `M`
+* `M.Path s t x`: a specific path from `s` to `t` for an input word `x`
+* `p.supp`: set of states visited by the path `p`
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:33]:
```suggestion
* `NFA.evalFrom M S x`: set of possible ending states for an input word `x`
  and set of initial states `S`
* `NFA.accepts M`: the language accepted by the NFA `M`
* `NFA.Path M s t x`: a specific path from `s` to `t` for an input word `x`
* `NFA.Path.supp p`: set of states visited by the path `p`
```
so that doc-gen turns them into links

File: Mathlib/Computability/NFA.lean [hunk 10]
```diff
@@ -104,6 +152,150 @@ def accepts : Language α := {x | ∃ S ∈ M.accept, S ∈ M.eval x}
...
+of a particular `Path`, such as the set of states visited along the way (defined as `Path.supp`). -/
+inductive Path : σ → σ → List α → Type (max u v)
+  | nil (s : σ) : Path s s []
+  | cons (t s u : σ) (a : α) (x : List α) :
+      t ∈ M.step s a → Path t u x → Path s u (a :: x)
+
+/-- Set of states visited by a path. -/
+@[simp]
+def Path.supp [DecidableEq σ] {s t : σ} {x : List α} (p : M.Path s t x) : Finset σ :=
+  match p with
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:172]:
```suggestion
def Path.supp [DecidableEq σ] {s t : σ} {x : List α} : M.Path s t x → Finset σ
```
is cleaner IMO

File: Mathlib/Computability/NFA.lean [hunk 11]
```diff
@@ -104,6 +152,150 @@ def accepts : Language α := {x | ∃ S ∈ M.accept, S ∈ M.eval x}
...
+      let ⟨s', h₁, h₂⟩ := h
+      let ⟨p'⟩ := Path.evalFrom_iff_nonempty.1 h₂
+      ⟨Path.cons s' _ _ _ _ h₁ p'⟩
+  mpr p := match p with
+    | ⟨nil s⟩ => by simp
+    | ⟨cons s' s t a x h₁ h₂⟩ => by
+      rw [evalFrom_cons, stepSet_singleton, mem_evalFrom_iff_exists]
+      exact ⟨s', h₁, Path.evalFrom_iff_nonempty.2 ⟨h₂⟩⟩
+
+theorem Path.accepts_iff_nonempty {x : List α} :
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:194]:
```suggestion
theorem accepts_iff_exists_path {x : List α} :
```
follows the naming convention and is suggestive

File: Mathlib/Computability/NFA.lean [hunk 12]
```diff
@@ -104,6 +152,150 @@ def accepts : Language α := {x | ∃ S ∈ M.accept, S ∈ M.eval x}
...
+  simp only [← Path.evalFrom_iff_nonempty, M.mem_accepts, M.mem_evalFrom_iff_exists (S := M.start)]
+  tauto
+
+/-- Append two paths. -/
+def Path.append {s t u : σ} {x y : List α} (p : M.Path s t x) (q : M.Path t u y) :
+    M.Path s u (x ++ y) :=
+  match p with
+  | nil _ => q
+  | cons s' _ _ _ _ h p' =>
+    cons s' _ _ _ _ h (p'.append q)
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:205]:
```suggestion
  | cons s' _ _ _ _ h p' => cons s' _ _ _ _ h (p'.append q)
```
maybe?

File: Mathlib/Computability/NFA.lean [hunk 13]
```diff
@@ -104,6 +152,150 @@ def accepts : Language α := {x | ∃ S ∈ M.accept, S ∈ M.eval x}
...
+      have ⟨x₂, x₃, p₂, p₃, e⟩ := p.splitAt s h'
+      have p₂ : M.Path s s (a :: x₂) := cons s₁ _ _ _ _ h₁ p₂
+      ⟨s, [], a :: x₂, x₃, nil s, p₂, p₃, e ▸ rfl, by simp⟩
+    else
+      have hle : p.supp.card ≤ x.length := by simpa [h', add_comm 1] using h
+      have ⟨t, x₁, x₂, x₃, p₁, p₂, p₃, e, hne⟩ := p.splitAtRepeatingState hle
+      ⟨t, a :: x₁, x₂, x₃, cons s₁ _ _ _ _ h₁ p₁, p₂, p₃, e ▸ rfl, hne⟩
+
+/-- Repeat a looping path to construct a path for `x∗`. -/
+noncomputable def Path.ofMemKstar {x x' : List α} {s : σ} (p : M.Path s s x)
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:248]:
```suggestion
noncomputable def Path.ofMemKStar {x x' : List α} {s : σ} (p : M.Path s s x)
```

File: Mathlib/Computability/NFA.lean [hunk 14]
```diff
@@ -104,6 +152,150 @@ def accepts : Language α := {x | ∃ S ∈ M.accept, S ∈ M.eval x}
...
+    (h : x' ∈ ({x}∗ : Language α)) : M.Path s s x' := by
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:249]: Can you make `x'` explicit so that one can tell from the infoview what its value is? Currently, it looks like `Path.ofMemKstar p ⋯`

**Review by YaelDillies — COMMENTED** [review]
I am still unsure about the "returning an element of a product" design. Can you maybe split everything until `Path.append` off to a preliminary PR which I will immediately approve? Then the remaining part of the diff will be much smaller and we can easily ask for other's opinions.

File: Mathlib/Computability/NFA.lean (hunk 11 above)
Comment (meithecatte) [reply Mathlib/Computability/NFA.lean:194]: Okay, I assume I should also rename `Path.evalFrom_iff_nonempty` to `mem_evalFrom_iff_exists_path`.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by YaelDillies** [comment]
Can you please raise the "prod as return types" point on Zulip?

**Comment by meithecatte** [comment]
I have created a discussion: [#mathlib4 > dependent product as return type @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/dependent.20product.20as.20return.20type/near/522913400)

**Comment by dagurtomas** [comment]
@meithecatte It seems like you have not implemented the suggestion from the Zulip discussion. Are you still interested in pursuing this?
